US07572794B2
2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-benzamide (700 mg, 1.6 mmol) was suspended in dioxane (26 mL) and treated consecutively with DMF (7 mL), Pd2dba3 (32 mg, 0.03 mmol), Xantphos (61 mg, 0.1 mmol), cesium carbonate (632 mg, 1.9 mmol) and 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid amide (930 mg, 5 mmol). The reaction mixture was placed under a nitrogen atmosphere and heated for 4 hours at 110° C. (bath temperature). On cooling the reaction was partitioned between EtOAc and brine. The organic phase was dried, filtered and concentrated in vacuo. The residue was purified by chromatography on Isolute® Flash silica gel (Separtis) (Gradient elution: 100% CH2Cl2 to CH2Cl2/EtOH 10:1) to give 1,4-dioxa-8-aza-spiro[4.5]decan-8-carboxylic acid(4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide (574 mg, 66%) as a solid; 1H-NMR (300 MHz, d6-DMSO) 10.20 (1H, s), 9.25 (1H, s), 8.32 (1H, s), 8.21 (1H, d), 8.17 (1H, s), 8.01 (1H, t), 7.87 (1H, s), 7.75-7.80 (1H, m), 7.70 (1H, d), 7.30-7.40 (2H, m), 6.99-7.01 (1H, m), 6.73 (1H, t), 6.60 (1H, d), 4.50 (2H, d), 4.20 (3H, s), 3.97 (4H, s), 3.54-3.59 (4H, m), 1.53-1.58 (4H, m); m/z (ES+) 542 [M+H]+.

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-N-(2-methyl-2H-indazol-6-yl)-benzamide | 1.6 mmol, 700 mg | BrC1=NC=CC(=C1)CNC1=C(C(=O)NC=2C=CC3=CN(N=C3C2)C)C=CC=C1 | C21H18BrN5O
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 1.9 mmol, 632 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid amide | 5 mmol, 930 mg | O1CCOC12CCN(CC2)C(=O)N | C8H14N2O3
solvent | dioxane | 26 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.03 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.1 mmol, 61 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1,4-dioxa-8-aza-spiro[4.5]decan-8-carboxylic acid(4-{[2-(2-methyl-2H-indazol-6-ylcarbamoyl)-phenylamino]-methyl}-pyridin-2-yl)-amide | 574 mg, 66% | CN1N=C2C=C(C=CC2=C1)NC(=O)C1=C(C=CC=C1)NCC1=CC(=NC=C1)NC(=O)N1CCC2(OCCO2)CC1 | C29H31N7O4
